US08309542B2
(a) tert. Butyl (R)-[1-(2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carbonyl)-pyrrolidin-3-yl]-carbamate
1.1 g (4.8 mmol) 2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid (as hydrochloride) are dissolved in 12 ml DMF, mixed with 2.1 ml (19.3 mmol) NMM and 1.8 g (4.8 mmol) HATU and stirred for five minutes at RT. Then 0.9 g (4.8 mmol) tert. Butyl (R)-pyrrolidin-3-yl-carbamate are added and the mixture is stirred for 16 hours. Then the mixture is poured onto water and extracted with DCM. The organic phase is separated using a phase separation cartridge and evaporated to dryness i. vac. The residue is purified by flash chromatography on silica gel (eluant DCM/MeOH 9:1 to 8:2).

reactant | 2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid | 4.8 mmol, 1.1 g | CN1CC2=CC=C(C=C2CC1)C(=O)O | C11H13NO2
reactant | NMM | 19.3 mmol, 2.1 ml | CN1CCOCC1 | C5H11NO
reactant | HATU | 4.8 mmol, 1.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert. Butyl (R)-pyrrolidin-3-yl-carbamate | 4.8 mmol, 0.9 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | tert. Butyl (R)-[1-(2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carbonyl)-pyrrolidin-3-yl]-carbamate | CN1CC2=CC=C(C=C2CC1)C(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C20H29N3O3
